Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Iodine-Iodine Containing
 
Attending: ___.
 
Chief Complaint:
hematemesis
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
Ms. ___ is a ___ female with medical history notable for DM2,
HTN, HLD, multiple strokes on Plavix and aspirin, inferior MI,
tobacco use, primary hyperparathyroidism, and colon cancer s/p
colectomy and chemotherapy who presented with hemoptysis.  
 Patient was initially seen for hemoptysis at ___ on ___ HPI
reported  "She first noticed coughing and hemoptysis
approximately ___ weeks ago, and noticed very small blood clots
at that time. She saw her  PCP in clinic on ___ for this, and 
CT
with contrast was ordered, but has not yet been scheduled (note,
she has allergy to  contrast). Over the past 3 days, she has
noticed worsening of her cough, sputum production, and
hemoptysis, with large clots on the order of teaspoons. No 
fevers
or chills, shortness of breath, chest pain, or lightheadedness.
Has some weight loss. No night sweats, homelessness, or prison
exposure. No recent travel, surgery, immobility, ___
swelling/pain. Notes some LUQ abdominal pain that began last
night, that is worsened by cough.  
 It is not associated with food, and she has no  
 n/v/d/constipation, and has regular BMs with no hematochezia or
melena."  
 A CT chest was obtained which was notable for infrahilar mass
with complete occlusion of the right middle lobe. She was not
able to connect with her PCP to discuss the results.  

 In the ED, initial VS:  
Pain 0 Temp 97.7 HR 78 BP 170/88 RR 16 POx 97% RA
 
 Exam:  
O: lung mild wheeze in the RLL.

 Work-up: 
Leukocytosis to 16, 
Elevated Ca ___

 She received:  
PO Oxybutynin 5 mg 
PO Azithromycin 500 mg 
IV CefTRIAXone (1 g ordered) 

 Consults:  
IP:  Decision was made to admit for expedited oncology work-up.  


 On arrival to the floor, the patient the endorsed the history
per above. In addition, she clarified that she has lost 3 pounds
in the past month. She denies any decrease PO intake or 
abdominal
pain. She denies SOB. She says she feels a lot better after
receiving medications in the ED.

 
Past Medical History:
- prior paramedian pontine infarct (___) 
- right-sided lenticulostriate territory infarct ___
- Hypertension as per prior medical records(patient denies)
- Dyslipidemia 
- Colon cancer 2/p right colectomy in ___ with prolonged
stuttering course of adjuvant chemotherapy (diagnosed in setting
of GI bleeding)
- Cholecystectomy for chronic cholecystitis and gallstones in
___
- Diverticulosis
- Hemorrhoids

 
Social History:
___
Family History:
Mother had stroke in her ___ or ___.  Her paternal 
grandfather,
father, and brother all had colon cancer.  Sister had ovarian
cancer and has prostate cancer in her family.

 
Physical Exam:
Admission:
General:  Older woman who appears stated ago, NAD, lying flat on
bed
 HEENT: EOMI, PERRLA, MMM
 Neck:  No JVD, no JVP elevation, neck supple, no cervical
lymphadenopathy
 Lungs:  Decreased breath sounds on R side, L side CTAB @ bases,
b/l ronchi in b/l upper lobes
 CV:  RRR, distant heart sounds, bradycardic, no murmurs/rubs/or
gallops
 Lymph: 0.5 cm x 2 R enlarged supraclaviular node, 0.5 cm x1 L
enlarged supraclavicular node
 GI:  Soft, nondistended, nonrigid, nontender to palpation
 Ext:  No lower extremity swelling, distal pulses b/l intact in
UE and ___
 ___:  CNII-XII intact, L eyebrow lower than R eyebrow, no
lower facial droop, ___ strength R grip strength, RUE flexion 
and
extension @ elbow, RLE ___ strength on plantar flexion and
dorsiflexion, RUE +antigravity, L grip strength ___, LUE ___
flexion and extension @ elbow joint, LLE +antigravity, LLE
plantar and dorsiflexion ___, A&O grossly

Discharge:
No significant changes
 
Pertinent Results:
Admission:

___ 06:57AM   PTH-106*
___ 06:57AM   WBC-13.3* RBC-4.63 HGB-12.1 HCT-36.7 MCV-79* 
MCH-26.1 MCHC-33.0 RDW-14.5 RDWSD-41.5
___ 06:57AM   PLT COUNT-275
___ 12:05AM   ___ PTT-30.5 ___
___ 10:18PM   GLUCOSE-110* UREA N-12 CREAT-1.1 SODIUM-146 
POTASSIUM-4.4 CHLORIDE-104 TOTAL CO2-28 ANION GAP-14
___ 10:18PM   estGFR-Using this
___ 10:18PM   ALT(SGPT)-7 AST(SGOT)-15 LD(LDH)-362* ALK 
PHOS-107* TOT BILI-<0.2
___ 10:18PM   ALBUMIN-3.4* CALCIUM-10.5* PHOSPHATE-3.0 
MAGNESIUM-2.3 URIC ACID-6.7*
___ 10:18PM   WBC-16.9* RBC-4.99 HGB-13.3 HCT-39.5 MCV-79* 
MCH-26.7 MCHC-33.7 RDW-14.7 RDWSD-41.8
___ 10:18PM   NEUTS-75.3* LYMPHS-18.1* MONOS-5.8 EOS-0.2* 
BASOS-0.2 IM ___ AbsNeut-12.72* AbsLymp-3.05 AbsMono-0.98* 
AbsEos-0.04 AbsBaso-0.03
___ 10:18PM   PLT COUNT-348

Imaging:
CT Chest ___:  
IMPRESSION:  
Right infrahilar mass with complete occlusion of the right 
middle
lobe bronchus with complete atelectasis of the right middle lob,
concerning for bronchogenic carcinoma mediastinal bilateral 
hilar
adenopathy. Diffuse enlargement the thyroid with multiple
hypodense areas within it which most likely represent goiter.
 
Brief Hospital Course:
Mrs. ___ is a ___ female with a medical history notable for 
DM2,
HTN, HLD, multiple strokes, inferior MI, tobacco use, and colon 
cancer, who presented with 3 weeks of increasing hemoptysis 
i/s/o a R hilar lung mass found on CT.

#Hemoptysis, R hilar mass
Her hemoptysis and R hilar mass is concerning for bronchogenic 
carcinoma given her history of smoking, colon cancer, and weight 
loss. She was stable without hypoxia or respiratory distress. 
Her home Plavix and aspirin were held, and her hemoptysis 
improved. IP consulted and planned for biopsy 
electrocautery/cryo +/- stent placement on ___, ___. She 
had a brain MRI on the evening of discharge that showed nothing 
acute, though follow-up on final read will be needed. She will 
also need a PET-CT for complete staging. She has been told to 
hold home Plavix until further notice (last dose ___ but 
continue her home aspirin. 

#Hypercalcemia
She has a history of primary hyperparathyroidism, but an 
elevated calcium level can also be seen as paraneoplastic 
syndrome. Her Ca was 10.5 on admission, in the same range as has 
been historically. She received her home Vitamin D, but no 
specific treatment was started.

# CVA
We held her home Plavix and aspirin per above.

# T2DM
She was on SSI, but did not require any.

# HLD
We continued her home statin.

# Tobacco use
She was given a Nicotine patch.

TRANSITIONAL ISSUES:
====================
[] MRI wet read negative for acute pathology, will need to be 
followed up for final read
[] PET/CT scan to complete staging
[] ___, ___ flex and rigid bronchoscopy + EBUS TBNA and 
possible stenting
[] Discuss restarting Plavix post-procedurally
[] Smoking cessation discussion
-------------
CODE: Full (confirmed)
CONTACT: ___ (Daughter) ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 325 mg PO DAILY 
2. Atorvastatin 80 mg PO QPM 
3. Clopidogrel 75 mg PO DAILY 
4. Oxybutynin 5 mg PO DAILY 
5. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1.  Aspirin 325 mg PO DAILY  
2.  Atorvastatin 80 mg PO QPM  
3.  Oxybutynin 5 mg PO DAILY  
4.  Vitamin D ___ UNIT PO DAILY  
5. HELD- Clopidogrel 75 mg PO DAILY  This medication was held. 
Do not restart Clopidogrel until you have spoken with your 
doctors and it is safe to resume. Certainly, not before ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Hemoptysis
Secondary: Hypercalcemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___ was a pleasure taking part in your ___ here at ___!  

Why was I admitted to the hospital?
You were admitted because you were on blood thinners and were 
coughing up blood.

What was done for me while I was in the hospital?
- We were concerned about the blood that you were coughing up, 
so we did a number of tests. We also stopped your Plavix, a 
medicine that can make you bleed easier - and that helped to 
reduce the amount of blood that you were coughing up. 
- The lung doctors spoke with ___ about the results of your 
recent lung CT, and explained that they will need to get a 
sample of tissue in order to find out what is in your lungs. 
- You also got a head MRI to look for any changes in your brain. 
Since you were stable and did not need to be in the hospital for 
any other tests, it was decided that you could go home safely.

What should I do when I leave the hospital?
-You have a bronchoscopy schedule for ___. Please 
DO NOT eat after 11:59PM on ___ and do not eat breakfast 
or lunch. You can take your morning medicines with water.
-Your appointments are as below
-Please DO NOT TAKE Plavix (clopidogrel) UNTIL after your 
procedure with the pulmonary doctors
-___ call Health ___ Associates to make a follow-up 
appointment with your primary ___ doctor about this 
hospitalization (number below)

Sincerely,
Your ___ ___ Team
 
Followup Instructions:
___